US09403801B2
6-(5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)nicotinonitrile
To a suspension of 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine (377.4 mg, 1.13 mmol) and 6-chloronicotinonitrile (318.8 mg, 2.31 mmol) in a mixture of DCM and MeOH (10 mL/10 mL) was added Et3N (235.0 mg, 2.32 mmol). The reaction mixture was stirred at 45° C. overnight and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/80) to give the title compound as a beige solid (304.4 mg, 61.8%).

reactant | 5-chloro-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 1.13 mmol, 377.4 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CNC2)C1 | C15H20ClN7
reactant | 6-chloronicotinonitrile | 2.31 mmol, 318.8 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | Et3N | 2.32 mmol, 235.0 mg | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 10 mL | CO | CH4O
product | 6-(5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)nicotinonitrile | 304.4 mg, 61.8% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CC2C(CN(C2)C2=NC=C(C#N)C=C2)C1 | C21H22ClN9
